US07728025B2
(Step 1) Production of 2,3-difluoro-1-(2,6-difluoro-phenoxy)-4-nitro-benzene
470 mg of 2,6-difluoro-phenol and 1.5 g of tetrabutylammonium bromide were added to an N-methylpyrrolidinone (13 ml) solution of 500 mg of 2,3,4-trifluoro-nitrobenzene, and the reaction liquid was stirred overnight at 130° C. The reaction liquid was diluted with ethyl acetate, washed with water and saturated saline in order, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=4/1) to obtain the entitled compound.

reactant | 2,6-difluoro-phenol | 470 mg | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | N-methylpyrrolidinone | 13 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2,3,4-trifluoro-nitrobenzene | 500 mg | FC1=C(C=CC(=C1F)F)[N+](=O)[O-] | C6H2F3NO2
catalyst | tetrabutylammonium bromide | 1.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-difluoro-1-(2,6-difluoro-phenoxy)-4-nitro-benzene | FC1=C(C=CC(=C1F)[N+](=O)[O-])OC1=C(C=CC=C1F)F | C12H5F4NO3
